US09034900B2
Step 1: 2-bromo-4-ethylsulfanyl-1-fluorobenzene
To a mixture of 3-bromo-4-fluorobenzenethiol (2.07 g, 10 mmol) and K2CO3 (4.14 g, 30 mmol) in acetone (20 mL) was added EtI (3.12 g, 20 mmol). The mixture was stirred at room temperature for 12 h, filtered, and the volatile components were removed under vacuum to give the title compound (2.34 g) as light yellow oil which was carried on without purification. 1H NMR (CDCl3, 400 MHz): d 7.54 (dd, J1=6.4 Hz, J2=2.4 Hz, 1H), 7.26-7.25 (m, 1H), 7.05 (t, J=8.4 Hz, 1H), 2.91 (q, J=7.6 Hz, 2H), 1.30 (t, J=7.6 Hz, 3H).

reactant | 3-bromo-4-fluorobenzenethiol | 10 mmol, 2.07 g | BrC=1C=C(C=CC1F)S | C6H4BrFS
reactant | K2CO3 | 30 mmol, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtI | 20 mmol, 3.12 g | C(C)I | C2H5I
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 2-bromo-4-ethylsulfanyl-1-fluorobenzene | 2.34 g | BrC1=C(C=CC(=C1)SCC)F | C8H8BrFS
